### PR TITLE
differentiation under integral

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

this can certainly be generalized but this version has already been used to prove the Gauss integral so it is maybe worth having anyway

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

~~- [ ] added corresponding documentation in the headers~~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/normedtype.v [hunk 1]
```diff
@@ -2651,6 +2660,12 @@ Qed.
 Lemma cvg_zero f a : (f - cst a) @ F --> (0 : V) -> f @ F --> a.
 Proof. by move=> Cfa; apply: cvg_sub0 Cfa (cvg_cst _). Qed.
 
+Lemma cvgr_sub0 f a : (fun x => f x - a) @ F --> 0 <-> f @ F --> a.
```
Comment (CohenCyril) [inline theories/normedtype.v:2663]: I don't understand the naming of this lemma.

Comment (affeldt-aist) [reply theories/normedtype.v:2663]: I think that it was named after:
```coq
cvge_sub0 : forall {I : Type} {F : set_system I}, Filter F ->
forall {R : realFieldType} (f : I -> \bar R) [k : \bar R],
k \is a fin_num -> (f x - k)%E @[x --> F] --> 0 <-> f x @[x --> F] --> k
```
What about `cvg_zeroP`? Since it is like `cvg_zero` but going in both directions.

**Comment by affeldt-aist** [comment]
I have added the gauss integral as an application of differentiation under integral

File: theories/normedtype.v (hunk 1 above)
Comment (CohenCyril) [reply theories/normedtype.v:2663]: Following the convention of `subr_eq0` the latter should be `sube_cvg0`, and the former `subr_cvg0`

**Comment by affeldt-aist** [comment]
@IshiguroYoshihiro do you have improvements to propose?

**Comment by affeldt-aist** [comment]
ping? :-)

File: theories/ftc.v [hunk 2]
```diff
@@ -16,10 +16,14 @@ From mathcomp Require Import lebesgue_integral derive charge.
 (* for the Lebesgue integral. We derive from this theorem a corollary to      *)
 (* compute the definite integral of continuous functions.                     *)
 (*                                                                            *)
+(*             'd1 f == first partial derivative of f                         *)
+(*                      f has type R -> T -> R for R : realType               *)
```
Comment (CohenCyril) [inline theories/ftc.v:20]: This looks very specific... maybe make the notation local, and name it partial1of2 or something like that ?

File: theories/gauss_integral.v [hunk 3]
```diff
@@ -0,0 +1,436 @@
...
+- move=> x x01.
+  by rewrite derive1_atan// mul1r.
+Qed.
+
+End oneDsqr.
+
+#[global] Hint Extern 0 (0 < oneDsqr _)%R => solve[apply: oneDsqr_gt0] : core.
+#[global] Hint Extern 0 (0 <= oneDsqr _)%R => solve[apply: oneDsqr_ge0] : core.
+#[global] Hint Extern 0 (1 <= oneDsqr _)%R => solve[apply: oneDsqr_ge1] : core.
+#[global] Hint Extern 0 (oneDsqr _ != 0)%R => solve[apply: oneDsqr_ge1] : core.
```
Comment (CohenCyril) [inline theories/gauss_integral.v:73]: This could be integrated as part an instance of posnum.

File: theories/gauss_integral.v [hunk 4]
```diff
@@ -0,0 +1,436 @@
...
+
+Section gauss.
+Context {R : realType}.
+Local Open Scope ring_scope.
+
+Definition gauss (x : R) := expR (- x ^+ 2).
```
Comment (CohenCyril) [inline theories/gauss_integral.v:79]: `gauss_fun` ? or `gauss_distribution` ?

File: theories/gauss_integral.v [hunk 5]
```diff
@@ -0,0 +1,436 @@
...
+End gauss_integral_proof.
+End gauss_integral_proof.
+
+Section gauss_integral.
+Context {R : realType}.
+Import gauss_integral_proof.
+Let mu := @lebesgue_measure R.
+
+Lemma integral0y_gauss_pi2 :
+  \int[mu]_(x in `[0%R, +oo[) gauss x = Num.sqrt pi / 2.
```
Comment (CohenCyril) [inline theories/gauss_integral.v:409]:
```suggestion
Lemma integral0y_gauss :
  \int[mu]_(x in `[0%R, +oo[) gauss x = Num.sqrt pi / 2.
```

File: theories/lebesgue_integral.v [hunk 6]
```diff
@@ -3440,6 +3440,77 @@ Qed.
...
+exists (\int[mu]_(x in `[0%R, n.+1%:R]) (f x)%:E); first by exists n.
+apply: ge0_subset_integral => //=.
+  by apply/measurable_EFinP; exact: measurableT_comp.
+by move=> ? _; rewrite lee_fin f0.
+Qed.
+
+Lemma ge0_cvg_integral :
+  (fun n => \int[mu]_(x in `[0%R, n%:R]) (f x)%:E) @ \oo -->
+  \int[mu]_(x in `[0%R, +oo[) (f x)%:E.
+Proof.
```
Comment (CohenCyril) [inline theories/lebesgue_integral.v:3503]:
```suggestion
Lemma ge0_cvgn_integral :
  \int[mu]_(x in `[0%R, n%:R]) (f x)%:E @[n --> \oo] -->
  \int[mu]_(x in `[0%R, +oo[) (f x)%:E.
Proof.
```

File: theories/gauss_integral.v (hunk 4 above)
Comment (affeldt-aist) [reply theories/gauss_integral.v:79]: `gauss_fun` looks better to me, `distribution` might suggest it is already equipped with structures from `probability.v`

File: theories/gauss_integral.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/gauss_integral.v:73]: I replace the 1st, 2nd, and 3rd hints (the last one was wrong moreover) and added instead
```
Lemma oneDsqr_gt0_subproof x : Signed.spec 0 !=0 >=0 (oneDsqr x).
Proof. by rewrite /= oneDsqr_neq0/= oneDsqr_ge0. Qed.

Canonical oneDsqr_ge0_snum x := Signed.mk (oneDsqr_gt0_subproof x).
```

File: theories/ftc.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/ftc.v]: Renamed *and* made local.

**Comment by affeldt-aist** [comment]
@CohenCyril CI's green

File: theories/gauss_integral.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/gauss_integral.v]: Indeed, these Hints were not triggered at all. I checked that the posnum is indeed effective (it actually discharges goals that were proved previously by direct invokations). I only kept the one not covered by posnum with the is_true coercion explicit (see the last commit).

**Comment by affeldt-aist** [comment]
ah, forgot to put `ge0_cvgn_integral` in the changelog, one sec

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Wait a sec

**Review by CohenCyril — APPROVED** [review]

**Comment by affeldt-aist** [comment]
Many thanks for the careful review!
